US08304419B2
2-amino-4-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-1H-imidazole-5-carboxamide
A solution of 3-{[3-(aminomethyl)-6-(difluoromethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.08 g, 0.245 mmol), 2-azido-4-chloro-1H-imidazole-5-carboxylic acid (0.046 g, 0.245 mmol), EDC (0.047 g, 0.245 mmol) and HOBT (0.037 g, 0.245 mmol) in N,N-Dimethylformamide (DMF) (4 ml) were stirred at RT under an atmosphere of nitrogen for 16 h then ethyl acetate (30 mL) and saturated aqueous NaHCO3 solution (30 mL) were added. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (30 mL), water (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. A mixture of 2-azido-5-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-1H-imidazole-4-carboxamide (0.12 g, 0.242 mmol) and Lindlar Catalyst (5.15 mg, 0.048 mmol) in ethyl acetate (10 ml) was stirred at RT under hydrogen (55 psig) for 16 h. Next day TLC & LCMS show desired product and remaining starting material. More Lindlar Catalyst (5.15 mg, 0.048 mmol) was added and the mixture was stirred at RT under hydrogen (55 psig) for 6 h. The mixture was carefully vented, filtered thru Celite and concentrated under vacuum. The yellow solid was purified by Reverse Phase HPLC (MeCN/water+0.1 TFA) to give a white solid. The salt was stirred with ethyl acetate (15 mL) and saturated aqueous NaHCO3 solution (15 mL) for 15 min. The organic layer was separated, washed with water (15 mL), brine (15 mL), dried over MgSO4, filtered and concentrated to give 0.033 g (29%) of the title compound as a white powder. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.39-7.62 (m, 3H), 7.27 (d, 2 H), 6.92 (t, 1H), 4.66 (s, 2H). LCMS m/z 468.3 (M−H).

reactant | 3-{[3-(aminomethyl)-6-(difluoromethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.245 mmol, 0.08 g | NCC=1C(=C(C(=CC1)C(F)F)OC=1C=C(C#N)C=C(C1)Cl)F | C15H10ClF3N2O
reactant | 2-azido-4-chloro-1H-imidazole-5-carboxylic acid | 0.245 mmol, 0.046 g | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)O | C4H2ClN5O2
reactant | EDC | 0.245 mmol, 0.047 g
reactant | HOBT | 0.245 mmol, 0.037 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | 2-azido-5-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-1H-imidazole-4-carboxamide | 0.242 mmol, 0.12 g | N(=[N+]=[N-])C=1NC(=C(N1)C(=O)NCC1=C(C(=C(C=C1)C(F)F)OC1=CC(=CC(=C1)C#N)Cl)F)Cl | C19H10Cl2F3N7O2
solvent | N,N-Dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | Lindlar Catalyst | 0.048 mmol, 5.15 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-1H-imidazole-5-carboxamide | NC=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)C(F)F)OC1=CC(=CC(=C1)C#N)Cl)F | C19H12Cl2F3N5O2
